US07884124B2
To a 40-mL scintillation vial containing trans-2-(4-chlorophenyl)vinylboronic acid (0.42 g, 2.30 mmol), 3-bromo-4-formylthiophene (0.40 g, 2.09 mmol), K3PO4 (0.490 g, 2.30 mmol), TPP (22 mg, 0.08 mmol, 4 mol %), Pd(OAc)2 (4.7 mg, 0.02 mmol, 1 mol %) and a stir-bar, was added acetonitrile (2.5 mL). The vial was purged with N2, capped tightly and heated at 94° C. (aluminum multi-reaction block) while vigorously stirred for 32 h. The reaction was diluted with water and extracted with EtOAc (3×50 mL). The combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. Purification by flash chromatography (Isco CombiFlash) 0-10% EtOAc in heptane afforded the desired 4-[2-(4-chlorophenyl)-vinyl]-thiophene-3-carbaldehyde (285 mg, 54%). 1H NMR (400 MHz, CDCl3) δ ppm 6.99 (d, J=16.38 Hz, 1H), 7.31-7.36 (m, 2H), 7.45-7.49 (m, 2H), 7.50 (d, J=3.20 Hz, 1H), 7.76 (dd, J=16.34, 0.78 Hz, 1H), 8.13 (d, J=3.20 Hz, 1H), 10.07 (d, J=0.82 Hz, 1H).

reactant | trans-2-(4-chlorophenyl)vinylboronic acid | 2.30 mmol, 0.42 g | ClC1=CC=C(C=C1)/C=C/B(O)O | C8H8BClO2
reactant | 3-bromo-4-formylthiophene | 2.09 mmol, 0.40 g | BrC1=CSC=C1C=O | C5H3BrOS
reactant | K3PO4 | 2.30 mmol, 0.490 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.02 mmol, 4.7 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-[2-(4-chlorophenyl)-vinyl]-thiophene-3-carbaldehyde | 285 mg, 54% | ClC1=CC=C(C=C1)C=CC=1C(=CSC1)C=O | C13H9ClOS
